US07767691B2
4-[Hydroxy(diphenyl)methyl]-1-[2-({[3-(methyloxy)phenyl]methyl}oxy)ethyl]-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (33.0 mg, 0.118 mmol) and 1-{[(2-bromoethyl)oxy]methyl}-3-(methyloxy)benzene (42.5 mg, 0.173 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (22.8 mg, 37%). EI-MS m/z 444 (M+) Rt (1.96 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.118 mmol, 33.0 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 1-{[(2-bromoethyl)oxy]methyl}-3-(methyloxy)benzene | 0.173 mmol, 42.5 mg | BrCCOCC1=CC(=CC=C1)OC | C10H13BrO2
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 4-[Hydroxy(diphenyl)methyl]-1-[2-({[3-(methyloxy)phenyl]methyl}oxy)ethyl]-1-azoniabicyclo[2.2.1]heptane bromide | 22.8 mg, 37% | [Br-].OC(C12CC[N+](CC1)(C2)CCOCC2=CC(=CC=C2)OC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H34NO3.BrH/c1-32-27-14-8-9-24(21-27)22-33-20-19-30-17-15-28(23-30,16-18-30)29(31,25-10-4-2-5-11-25)26-12-6-3-7-13-26;/h2-14,21,31H,15-20,22-23H2,1H3;1H/q+1;/p-1
